US03962435
Preparation of 3-ethoxy-4,5-methylenedioxy-α-cyanodihydrocinnamaldehyde dimethylacetal
To 6.6 g. sodium dissolved in 96 ml. of methanol, 37.5 g. of 3-ethoxy-4,5-methylenedioxy-α-methoxymethylcinnamonitrile were added. The resulting mixture was refluxed for 24 hours. The solution was poured into 400 ml. water and was extracted with methylenechloride. Upon evaporation of the solvent, the product, 3-ethoxy-4,5-methylenedioxy-α-cyanodihydrocinnamaldehyde dimethylacetal, was vacuum distilled and had a b.p. of 191°/0.4 mmHg., nD23 = 1.5340.

reactant | sodium | [Na] | Na
reactant | 3-ethoxy-4,5-methylenedioxy-α-methoxymethylcinnamonitrile | C(C)OC=1C=C(C=C(C#N)COC)C=C2C1OCO2 | C14H15NO4
reactant | methanol | CO | CH4O
product | 3-ethoxy-4,5-methylenedioxy-α-cyanodihydrocinnamaldehyde dimethylacetal | COC(C(CC1=CC(=C2C(=C1)OCO2)OCC)C#N)OC | C15H19NO5
